US05519133
Preparation of 5-Fluoro-2-nitrobenzoyl azide
A solution of 5-fluoro-2-nitrobenzoyl chloride (52 g, 0.256 mol) in a toluene (50 mL) and acetone (60 mL) mixture is added dropwise to a solution of sodium azide (19.55 g, 0.301 mol) in water while maintaining the reaction mixture temperature below 30° C. The resultant solid is collected and the filtrate is extracted with ether. The organic extracts are combined, washed with water, dried over anhydrous magnesium sulfate and concentrated by blowing air over the solution to obtain additional solids. The solids are combined, slurried in an acetone/water (1:3) solution, filtered and dried to give the title product as a yellow solid.

reactant | 5-fluoro-2-nitrobenzoyl chloride | 0.256 mol, 52 g | FC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3ClFNO3
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | acetone | 60 mL | CC(=O)C | C3H6O
reactant | sodium azide | 0.301 mol, 19.55 g | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | acetone water | CC(=O)C.O
product | 5-Fluoro-2-nitrobenzoyl azide | FC=1C=CC(=C(C(=O)N=[N+]=[N-])C1)[N+](=O)[O-] | C7H3FN4O3
